US09029395B2
To a solution of 6-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinic acid (for a preparation see Intermediate 7) (54 mg, 0.126 mmol) in DMF (5 mL) were added K2CO3 (26.2 mg, 0.189 mmol) and 2-bromo-N,N-dimethylethanamine (28.8 mg, 0.189 mmol). The resulting mixture was stirred at room temperature for 3 h, the reaction mixture was concentrated under reduced pressure and the residue was dissolved in a 1:1 MeOH/DMSO mixture and purified by MDAP (formate). The appropriate fractions were combined and concentrated in vacuo to give 2-(dimethylamino)ethyl 6-((2R,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinate (16.5 mg, 24%) as a viscous colourless oil. LCMS (Formate, 2 min), Rt=0.69 min, MH+=499.

reactant | 6-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinic acid | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=NC=C(C(=O)O)C=C1)NC1=NC=C(C=C1)C#N)C | C24H21N5O3
reactant | K2CO3 | 0.189 mmol, 26.2 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-N,N-dimethylethanamine | 0.189 mmol, 28.8 mg | BrCCN(C)C | C4H10BrN
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(dimethylamino)ethyl 6-((2R,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinate | 16.5 mg, 24% | C(C)(=O)N1[C@@H](C[C@H](C2=CC(=CC=C12)C1=NC=C(C(=O)OCCN(C)C)C=C1)NC1=NC=C(C=C1)C#N)C | C28H30N6O3
